US09334278B2
To a mixture of 2-amino-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (92 mg, 253 mol), 3-bromo-5-(methylsulfonyl)pyridine (77.7 mg, 329 mol), xantphos (43.9 mg, 75.9 mol), Pd2(dba)3 (23.2 mg, 25.3 mol) and cesium carbonate (165 mg, 506 mol) in dioxane (2 mL) was heated in a microwave at 150° C. for 20 min. The mixture was cooled then filtered through a pad of celite. The filtrate was concentrated in vacuo then purified by chromatography (silica, 30-70% ethyl acetate in hexanes) to give N-tert-butyl-2-(5-(methylsulfonyl)pyridin-3-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (125 mg, 241 mol, 95%) as a yellow gum. (EI/CI) m/z: 519.3 [M+H].

reactant | 2-amino-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 253 mol, 92 mg | NC=1N=C2C(=NC1)N(C=C2C(=O)NC(C)(C)C)COCC[Si](C)(C)C | C17H29N5O2Si
reactant | 3-bromo-5-(methylsulfonyl)pyridine | 329 mol, 77.7 mg | BrC=1C=NC=C(C1)S(=O)(=O)C | C6H6BrNO2S
reactant | xantphos | 75.9 mol, 43.9 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 506 mol, 165 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 25.3 mol, 23.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-tert-butyl-2-(5-(methylsulfonyl)pyridin-3-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 241 mol, 125 mg, 95% | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC=2C=NC=C(C2)S(=O)(=O)C)COCC[Si](C)(C)C | C23H34N6O4SSi
